US08378104B2
Step A: 7-bromo-6-(3-fluorophenyl)-1,2-benzothiazole
A suspension of 7-bromo-6-iodo-1,2-benzothiazole (29.6 mg, 0.0871 mmol), 3-fluorobenzeneboronic acid (12.8 mg, 0.0915 mmol), potassium carbonate (39.2 mg, 0.284 mmol), and Pd(PPh3)4 (12.2 mg, 0.0106 mmol) in 4:1 1,4-dioxane:water (1 mL) was heated to 80° C. for 15 h. The reaction mixture was concentrated in vacuo. Purification of the residue by ISCO chromatography (0 to 100% dichloromethane:heptane) to afford 16.2 mg (59%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 9.08 (s, 1H), 7.73 (d, J=7.58 Hz, 1H), 7.52 (dt, J=5.81, 7.96 Hz, 1H), 7.37 (qd, J=0.88, 7.71 Hz, 1H), 7.33 (d, J=7.58 Hz, 1H), 7.28-7.31 (m, 1H), 7.20 (ddt, J=1.01, 2.59, 8.43 Hz, 1H); MS (ESI): 307.87, 309.86 [M+H]+; HPLC tR=4.33 min (ZQ3: nonpolar—5 min).

reactant | 7-bromo-6-iodo-1,2-benzothiazole | 0.0871 mmol, 29.6 mg | BrC1=C(C=CC=2C=NSC21)I | C7H3BrINS
reactant | 3-fluorobenzeneboronic acid | 0.0915 mmol, 12.8 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 0.284 mmol, 39.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0106 mmol, 12.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | 7-bromo-6-(3-fluorophenyl)-1,2-benzothiazole | 16.2 mg, 59% | BrC1=C(C=CC=2C=NSC21)C2=CC(=CC=C2)F | C13H7BrFNS
